US07521446B2
Building Block Used for the Synthesis of 1-(hydroxymethyl)-4-{2-[(methylethyl)amino]-8-[(2,4,6-trifluorophenyl)amino]purin-9-yl}cyclohexan-1-ol
Methyl 1-hydroxy-4-{2-[(methylethyl)amino]-8-[(2,4,6-trifluorophenyl)amino]purin-9-yl}cyclohexanecarboxylate (0.300 g, 0.6 mmol) was dissolved in 3 mL of dry methanol. The solution was cooled to 0° C. before addition of solid sodium borohydride (0.300 g, 7.92 mmol). After 1 h at low temperature, the reaction was warmed to rt and stirred overnight. The reaction was quenched with 5 mL of a saturated solution of ammonium chloride. The crude product was extracted with dichloromethane (four times). The product was purified by column chromatography (75% ethyl acetate in hexanes) followed by semi-preparative HPLC. The fractions were neutralized using a resin-exchange column. (0.101 g, 37% yield). M+1: 451.

reactant | Methyl 1-hydroxy-4-{2-[(methylethyl)amino]-8-[(2,4,6-trifluorophenyl)amino]purin-9-yl}cyclohexanecarboxylate | 0.6 mmol, 0.300 g | OC1(CCC(CC1)N1C2=NC(=NC=C2N=C1NC1=C(C=C(C=C1F)F)F)NC(C)C)C(=O)OC | C22H25F3N6O3
reactant | sodium borohydride | 7.92 mmol, 0.300 g | [BH4-].[Na+]
solvent | methanol | 3 mL | CO | CH4O
product | 1-(hydroxymethyl)-4-{2-[(methylethyl)amino]-8-[(2,4,6-trifluorophenyl)amino]purin-9-yl}cyclohexan-1-ol | 37% yield | OCC1(CCC(CC1)N1C2=NC(=NC=C2N=C1NC1=C(C=C(C=C1F)F)F)NC(C)C)O | C21H25F3N6O2
